US07781593B2
Aqueous 1M lithium hydroxide solution (2.25 ml, 2.25 mmol) was added to a solution of 6-(2-pyrimidin-5-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester and 6-(2-pyrimidin-5-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (46:54, 196 mg, 0.49 mmol) in tetrahydrofuran and methanol (6:1, 7 ml). The reaction mixture was stirred for 20 hours at room temperature then concentrated in vacuo. The residue was treated with 4M HCl in dioxane (0.56 ml, 2.25 mmol) and concentrated in vacuo to give crude 6-(2-pyrimidin-5-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinic acid. This material was used in the subsequent amide coupling step without further purification. LC at 215 nm; Rt 1.72: 89%, m/z (ES+): 374 (M+H).

reactant | lithium hydroxide | 2.25 mmol, 1M, 2.25 ml | [OH-].[Li+]
reactant | 6-(2-pyrimidin-5-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)CCC=1C=NC=NC1)=O | C21H18F3N3O2
reactant | 6-(2-pyrimidin-5-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 0.49 mmol, 196 mg | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)CCC=1C=NC=NC1)=O | C20H16F3N3O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.25 mmol, 0.56 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 7 ml | CO | CH4O
product | 6-(2-pyrimidin-5-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinic acid | N1=CN=CC(=C1)CCC1=NC=C(C(=O)O)C=C1C1=CC=C(C=C1)C(F)(F)F | C19H14F3N3O2
